US09085576B2
To a mixture of 3-bromo-6,7-dihydro-5H-cyclopenta[b]pyridine (1.83 g, 9.24 mmol) and potassium acetate (0.980 g, 9.99 mmol) in acetic acid (30 mL, 520 mmol) was added benzaldehyde (1.90 ml, 18.7 mmol). The reaction mixture was heated to 145° C. (oil bath temperature) in a sealed pressure tube for 3 d, cooled to room temperature and additional benzaldehyde (4 mL) and KOAc (1.83 g) were added. The reaction mixture was heated to 145° C. (oil bath temperature) in a sealed pressure tube for 2 d and cooled to room temperature. The reaction mixture was diluted with EtOAc. The organic phase was washed with 5 M NaOH, water and brine and dried over MgSO4. The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel (5% to 10% EtOAc in heptane) to give (E)-7-benzylidene-3-bromo-6,7-dihydro-5H-cyclopenta[b]pyridine (1.57 g, 5.49 mmol, 59% yield) as a yellow solid. MS m/z=286.0 [M+H]+. Calculated for C15H12BrN 285.0.

reactant | 3-bromo-6,7-dihydro-5H-cyclopenta[b]pyridine | 9.24 mmol, 1.83 g | BrC=1C=C2C(=NC1)CCC2 | C8H8BrN
reactant | potassium acetate | 9.99 mmol, 0.980 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 520 mmol, 30 mL | C(C)(=O)O | C2H4O2
reactant | benzaldehyde | 18.7 mmol, 1.90 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzaldehyde | 4 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | KOAc | 1.83 g | CC(=O)[O-].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-7-benzylidene-3-bromo-6,7-dihydro-5H-cyclopenta[b]pyridine | 5.49 mmol, 1.57 g, 59% yield | C(/C1=CC=CC=C1)=C\1/CCC=2C1=NC=C(C2)Br | C15H12BrN
